US04126689
To a stirred mixture of 7.5 parts of N-(4-chlorophenyl)-1-(1-methylethyl)-4-piperidinamine and 80 parts of 4-methyl-2-pentanone are added dropwise 9 parts of [4-(2-chloro-2-oxoethyl)-phenyl] ethyl carbonate. Upon completion, the whole is heated to reflux and stirring is continued for one hour at reflux temperature. After cooling, the precipitated product is filtered off and stirred for 30 minutes in a mixture of alkaline water and trichloromethane. The layers are separated. The organic phase is dried, filtered and evaporated. The oily residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions are collected and the eluent is evaporated yielding 5.5 parts of {4-[2-{(4-chlorophenyl)-[1-(1-methylethyl)-4-piperidinyl]amino}-2-oxoethyl]phenyl} ethyl carbonate as an oily residue.

reactant | N-(4-chlorophenyl)-1-(1-methylethyl)-4-piperidinamine | ClC1=CC=C(C=C1)NC1CCN(CC1)C(C)C | C14H21ClN2
reactant | [4-(2-chloro-2-oxoethyl)-phenyl] ethyl carbonate | C(OC1=CC=C(C=C1)CC(=O)Cl)(OCC)=O | C11H11ClO4
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | {4-[2-{(4-chlorophenyl)-[1-(1-methylethyl)-4-piperidinyl]amino}-2-oxoethyl]phenyl} ethyl carbonate | C(OC1=CC=C(C=C1)CC(=O)N(C1CCN(CC1)C(C)C)C1=CC=C(C=C1)Cl)(OCC)=O | C25H31ClN2O4
